US08377957B2
4-Chloro-2-ethoxy-1H-imidazo[4,5-c]quinoline (500 mg) was added to a high-pressure vessel with ammonia (40 mL of a 7 N solution in methanol), and the vessel was sealed and heated at 150° C. overnight. An analysis by LC/MS indicated the presence of starting material, and the reaction was heated at 150° C. for an additional four hours, allowed to cool, and concentrated under reduced pressure. The crude product was purified twice by automated flash chromatography (silica cartridge, eluting with aqueous ammonium hydroxide:methanol:dichloromethane in a gradient from 0:0:100 to 0.4:7.6:92) to provide 52 mg of 2-ethoxy-1H-imidazo[4,5-c]quinolin-4-amine as a white solid.

reactant | 4-Chloro-2-ethoxy-1H-imidazo[4,5-c]quinoline | 500 mg | ClC1=NC=2C=CC=CC2C2=C1N=C(N2)OCC | C12H10ClN3O
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 2-ethoxy-1H-imidazo[4,5-c]quinolin-4-amine | 52 mg | C(C)OC=1NC2=C(C(=NC=3C=CC=CC23)N)N1 | C12H12N4O
